US05716971
A solution of 2-bromo-4-chloro-5-fluorophenol methoxymethylether (17.65 g) in diethyl ether (400 ml) was cooled to -78° C. To the solution was added dropwise, under argon atmosphere, 1.6M n-butyllithium hexane solution (45 ml). The mixture was stirred for one hour under the same conditions, followed by dropwise addition of 2-cyano-3-trimethylsilyloxypyridine (13.18 g) at -78° C. The cooling bath was then removed, and the reaction mixture was stirred overnight while raising the temperature to room temperature. The reaction was suspended by the addition of methanol (50 ml). Then the solvent was distilled off. To the residue were added methanol (300 ml) and conc. hydrochloric acid (7 ml). The mixture was stirred for 2 hours at room temperature. The reaction mixture was neutralized with an aqueous solution of potassium carbonate, which was subjected to extraction with ethyl acetate. The extract solution was dried (anhydrous magnesium sulfate), then the solvent was distilled off under reduced pressure. The residue was purified by means of a silica gel column chromatography (elution with ethyl acetate/hexane) to afford 2-(5-chloro-4-fluoro-2-methoxymethoxybenzoyl)-3-hydroxypyridine (9.18 g) (Compound F-1). Physico-chemical properties and spectrum data are shown in Table 22 and Table 23.

reactant | 2-bromo-4-chloro-5-fluorophenol methoxymethylether | 17.65 g | COCOC1=C(C=C(C(=C1)F)Cl)Br | C8H7BrClFO2
reactant | n-butyllithium hexane | 1.6M, 45 ml | CCCCCC.C(CCC)[Li]
reactant | 2-cyano-3-trimethylsilyloxypyridine | 13.18 g | C(#N)C1=NC=CC=C1O[Si](C)(C)C | C9H12N2OSi
reactant | diethyl ether | 400 ml | C(C)OCC | C4H10O
product | 2-(5-chloro-4-fluoro-2-methoxymethoxybenzoyl)-3-hydroxypyridine | 9.18 g | ClC=1C(=CC(=C(C(=O)C2=NC=CC=C2O)C1)OCOC)F | C14H11ClFNO4
